US04542132
Sodium borohydride (40 mg) was added at 0° to a stirred solution of 2-{2-oxo-2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]ethyl}-5-methyl-1,2,6-thiadiazine-1,1-dioxide (0.4 g) in ethanol (10 cm3). After 2 hours the volatile material was removed in vacuo and the residue was partitioned between water (10 cm3) and dichloromethane (20 cm3). The dried organic extract was evaporated to give a solid which was chromatographed on silica ("Merck" 60.9385) eluting with methanol:chloroform, 1:19, to give a foam which was crystallised from ethyl acetate to afford 2-{2-hydroxy-2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]ethyl}-5-methyltetrahydro-1,2,6-thiadiazine-1,1-dioxide as microcrystals, m.p. 189°-193° (0.30 g).

reactant | Sodium borohydride | 40 mg | [BH4-].[Na+]
reactant | 2-{2-oxo-2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]ethyl}-5-methyl-1,2,6-thiadiazine-1,1-dioxide | 0.4 g | O=C(CN1S(N=C(C=C1)C)(=O)=O)C1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C21H25N5O5S
solvent | ethanol | 10 cm3 | C(C)O | C2H6O
product | 2-{2-hydroxy-2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]ethyl}-5-methyltetrahydro-1,2,6-thiadiazine-1,1-dioxide | OC(CN1S(NC(CC1)C)(=O)=O)C1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C21H31N5O5S
